US07750185B2
Preparation of 2,2-bis(4-nitrobenzyl)malonic acid
2.185 g (52.07 mmol) of lithium hydroxide were added to a suspension of 10.79 g (26.04 mmol) of 2,2-dimethyl-5,5-bis(4-nitrobenzyl)-1,3-dioxane-4,6-dione and 110 ml mixture of tetrahydrofuran:water 9:1. The mixture was subsequently allowed to react for 21.5 hours at 25° C., added to 500 ml water and acidified to pH=1 with 20 ml hydrochloric acid 3N. The mixture was partitioned between water and ethyl acetate; the organic phase was washed repeatedly with water, dried over sodium sulfate, filtered and concentrated by rotary evaporation. The residue 9.54 g (98%) of 2,2-bis(4-nitrobenzyl)malonic acid as white powder was used without further purification.

reactant | lithium hydroxide | 52.07 mmol, 2.185 g | [OH-].[Li+]
reactant | 2,2-dimethyl-5,5-bis(4-nitrobenzyl)-1,3-dioxane-4,6-dione | 26.04 mmol, 10.79 g | CC1(OC(C(C(O1)=O)(CC1=CC=C(C=C1)[N+](=O)[O-])CC1=CC=C(C=C1)[N+](=O)[O-])=O)C | C20H18N2O8
reactant | tetrahydrofuran water | O1CCCC1.O
reactant | hydrochloric acid | 3N, 20 ml | Cl | ClH
solvent | water | 500 ml | O | H2O
product | 2,2-bis(4-nitrobenzyl)malonic acid | [N+](=O)([O-])C1=CC=C(CC(C(=O)O)(C(=O)O)CC2=CC=C(C=C2)[N+](=O)[O-])C=C1 | C17H14N2O8
